US05364857
1-(4-fluorophenyl)-4-(4-piperidino-4-carbamoylpiperidino)-1-butanone (INN: pipamperone);
4-phenyl-8-[3-(4-fluorobenzoyl)propyl]-1-oxo-2,4,8-triazaspiro[4,5]decane (INN:spiperone), 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]-ethyl]-2,4-[1H, 3H]-quinazolinedione (INN: ketanserin), pirenperin (INN), ritanserin (INN) and pelanserin (INN).

reactant | 4-phenyl-8-[3-(4-fluorobenzoyl)propyl]-1-oxo-2,4,8-triazaspiro[4,5]decane | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CCCC(C2=CC=C(C=C2)F)=O)=O | C23H26FN3O2
reactant | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]-ethyl]-2,4-[1H, 3H]-quinazolinedione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC=CC=C3C2=O)=O)C=C1 | C22H22FN3O3
reactant | ritanserin | CC1=C(C(=O)N2C=CSC2=N1)CCN3CCC(=C(C=4C=CC(=CC4)F)C=5C=CC(=CC5)F)CC3 | C27H25F2N3OS
reactant | pelanserin | C=1C=CC(=CC1)N2CCN(CC2)CCCN3C(=O)C=4C=CC=CC4NC3=O | C21H24N4O2
product | 1-(4-fluorophenyl)-4-(4-piperidino-4-carbamoylpiperidino)-1-butanone | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)(C(N)=O)N1CCCCC1)=O | C21H30FN3O2
